US05808062
4-Hydroxy-3-[(phenylmethyl)thio]-6-(2,3,4-trimethoxyphenyl)-2H-pyran-2-one:
The title compound was prepared by Method A using 2',3', 4'-trimethoxyacetophenone (1.5 g, 7.13 mmol), lithium bis(trimethylsilyl)amide (1.43 g, 8.56 mmol), chlorotrimethylsilane (1.8 mL, 10.67 mmol) and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.54 mmol).

reactant | 2',3', 4'-trimethoxyacetophenone | 7.13 mmol, 1.5 g | COC1=C(C=CC(=C1OC)OC)C(C)=O | C11H14O4
reactant | lithium bis(trimethylsilyl)amide | 8.56 mmol, 1.43 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 10.67 mmol, 1.8 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 3.54 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
product | 4-Hydroxy-3-[(phenylmethyl)thio]-6-(2,3,4-trimethoxyphenyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=C(C(=C(C=C1)OC)OC)OC)=O)SCC1=CC=CC=C1 | C21H20O6S
